US09079916B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-benzylpyridin-3-yl)cyclopropanecarboxamide was synthesized using the procedure of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxybenzyl)pyridin-3-yl)cyclopropanecarboxamide using benzylzinc(II) bromide and 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxybenzyl)pyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)CC2=C(C=CC=C2)OC | C24H22N2O4
reactant | benzylzinc(II) bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)Br | C16H13BrN2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-benzylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)CC2=CC=CC=C2 | C23H20N2O3
